US08530461B2
(S)—N-(1-{4-[3-(2-Morpholin-4-yl-pyrimidin-4-yloxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide
To 30 mg (0.15 mmol) 4-(4-chloro-pyrimidin-2-yl)-morpholine in DMF (1.0 mL) is added 30 mg (0.13 mmol) (S)—N-{1-[4-(3-hydroxy-azetidin-1-yl)-phenyl]-ethyl}-acetamide (V.1) in DMF (1.0 mL). 20 mg (0.45 mmol, 55% in mineral oil) NaH is added and the mixture is stirred for 12 h at room temperature. Water is added, the mixture is concentrated in vacuo and the residue is purified by HPLC (XBridge, acetronitrile/H2O (+0.1% NH4OH)) to yield the desired product.

reactant | 4-(4-chloro-pyrimidin-2-yl)-morpholine | 0.15 mmol, 30 mg | ClC1=NC(=NC=C1)N1CCOCC1 | C8H10ClN3O
reactant | (S)—N-{1-[4-(3-hydroxy-azetidin-1-yl)-phenyl]-ethyl}-acetamide | 0.13 mmol, 30 mg | OC1CN(C1)C1=CC=C(C=C1)[C@H](C)NC(C)=O | C13H18N2O2
reactant | NaH | 0.45 mmol, 20 mg | [H-].[Na+]
reactant | Water | O | H2O
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | (S)—N-(1-{4-[3-(2-Morpholin-4-yl-pyrimidin-4-yloxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide | N1(CCOCC1)C1=NC=CC(=N1)OC1CN(C1)C1=CC=C(C=C1)[C@H](C)NC(C)=O | C21H27N5O3
